US07071207B2
Preparation of 1-[(2-chlorophenyl)amino]acetone
To a solution of chloroacetone (8.0 mL, 0.100 mol) in 100 mL acetone was added KI (33.20 g, 0.200 mol). The suspension was stirred under argon at rt for 24 h. Acetone was evaporated under reduced pressure. The residue was extracted with ether. The ethereal solution was concentrated under reduced pressure to yield iodoacetone as a brown liquid (18.00 g, 98%). A mixture of 2-chloroaniline (8.95 mL, 0.085 mol), iodoacetone (18.00 g, 0.098 mol), K2CO3 (12.35 g, 0.090 mol) and DMF (200 mL) was heated under argon for 48 h. The mixture was cooled to rt, and water was added. The mixture was extracted with ether (3×300 mL). The combined organic phases were washed with water (2×300 mL), dried over Na2SO4, and evaporated. The crude product was purified on silica gel, eluting with 1:5 EtOAc/hexanes to yield the product as a brown liquid (14.07 g, 77%), which was used in procedures similar to Examples 16 and 17.

reactant | 2-chloroaniline | 0.085 mol, 8.95 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | iodoacetone | 0.098 mol, 18.00 g | ICC(C)=O | C3H5IO
reactant | K2CO3 | 0.090 mol, 12.35 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[(2-chlorophenyl)amino]acetone | 14.07 g, 77% | ClC1=C(C=CC=C1)NCC(=O)C | C9H10ClNO
